US05101048
Preparation of 3-cyanophenyl 2,3,4-tri-O-acetyl-5-thio-β-D-xylopyranoside (Example 27a)
If the procedure described in Preparation LXXVIII is followed starting from 0.5 g (1.4.10-3 mol) of 2,3,4-tri-O-acetyl-5-thio-D-xylopyranosyl bromide, 0.25 g (2.1.10-3 mol) of 3-hydroxybenzonitrile and 170 mg (2.1.10-3 mol) of zinc oxide (ZnO) in 4 ml of anhydrous toluene and 4 ml of acetonitrile, 138 mg (yield: 25%) of the expected product are obtained after purification by chromatography on silica gel using a hexane/ethyl acetate mixture (2/1 v/v) as the eluent, and precipitation in ether.

reactant | 2,3,4-tri-O-acetyl-5-thio-D-xylopyranosyl bromide | 0.5 g | C(C)(=O)O[C@H]1C(SC[C@H]([C@@H]1OC(C)=O)OC(C)=O)Br | C11H15BrO6S
reactant | 3-hydroxybenzonitrile | 0.25 g | OC=1C=C(C#N)C=CC1 | C7H5NO
solvent | toluene | 4 ml | C1(=CC=CC=C1)C | C7H8
solvent | acetonitrile | 4 ml | C(C)#N | C2H3N
catalyst | zinc oxide | 170 mg | [O-2].[Zn+2]
product | 3-cyanophenyl 2,3,4-tri-O-acetyl-5-thio-β-D-xylopyranoside | 138 mg, yield: 25% | C(C)(=O)O[C@H]1[C@H](OC2=CC(=CC=C2)C#N)SC[C@H]([C@@H]1OC(C)=O)OC(C)=O | C18H19NO7S
